US08357693B2
tert-butyl 5-(2-(3-(2-(isopropylamino)-2-oxoethoxy)phenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate
To a solution of tert-Butyl 5-(2-(3-hydroxyphenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.400 g, 0.72 mmol) and 2-chloro-N-isopropylacetamide (0.107 g, 0.79 mmol) in DMF (16 mL) was added K2CO3 (0.297 g, 1.44 mmol). The mixture was heated at 80° C. for 72 h. The mixture was concentrated in vacuo and taken on directly into the next step. HPLC retention time 6.76 mins.

reactant | tert-Butyl 5-(2-(3-hydroxyphenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.72 mmol, 0.400 g | OC=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCOC)OC | C30H31N5O6
reactant | 2-chloro-N-isopropylacetamide | 0.79 mmol, 0.107 g | ClCC(=O)NC(C)C | C5H10ClNO
reactant | K2CO3 | 1.44 mmol, 0.297 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(2-(3-(2-(isopropylamino)-2-oxoethoxy)phenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(C)NC(COC=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCOC)OC)=O | C35H40N6O7
